US09388192B2
tert-butyl 4-[5,6-dibromo-1-({1-[(tert-butoxy)carbonyl]piperidin-4-yl}methyl)-1H-1,3-benzodiazol-2-yl]piperidine-1-carboxylate (16A)
4,5-dibromobenzene-1,2-diamine (100 mg, 0.38 mmol) and tert-butyl 4-formylpiperidine-1-carboxylate (160 mg, 0.76 mmol) were stirred for 1 hour in 2,2,2trifluoroethanol. Then Solvent was evaporated and product was purified on silica gel using EA/hex (1/1). Yield: 20 mg. m/z 657.1, rt. 4.2 min.

reactant | 4,5-dibromobenzene-1,2-diamine | 0.38 mmol, 100 mg | BrC=1C=C(C(=CC1Br)N)N | C6H6Br2N2
reactant | tert-butyl 4-formylpiperidine-1-carboxylate | 0.76 mmol, 160 mg | C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO3
solvent | 2,2,2trifluoroethanol | FC(CO)(F)F | C2H3F3O
product | tert-butyl 4-[5,6-dibromo-1-({1-[(tert-butoxy)carbonyl]piperidin-4-yl}methyl)-1H-1,3-benzodiazol-2-yl]piperidine-1-carboxylate | BrC1=CC2=C(N(C(=N2)C2CCN(CC2)C(=O)OC(C)(C)C)CC2CCN(CC2)C(=O)OC(C)(C)C)C=C1Br | C28H40Br2N4O4
